US04818271
Step G: 4-Amino-2-propoxypyridine
A solution of 4.4 grams (0.017 mole) of (1,1-dimethylethyl) N-(2-propoxy-4-pyridinyl)carbamate in 20 ml of trifluoroacetic acid was stirred at ambient temperature for one hour. The excess trifluoroacetic acid was removed under reduced pressure. The yield of 4-amino-2-propoxypyridine was 2.6 grams as an oil.

reactant | (1,1-dimethylethyl) N-(2-propoxy-4-pyridinyl)carbamate | 0.017 mole, 4.4 grams | C(CC)OC1=NC=CC(=C1)NC(OC(C)(C)C)=O | C13H20N2O3
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Amino-2-propoxypyridine | NC1=CC(=NC=C1)OCCC | C8H12N2O
